US05021577
1,4-Bis(4-octadecanoyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)butane
The title compound is prepared by reaction of a tetrahydrofuran solution of 1-hydroxy-4-octadecanoyloxy-2,2,6,6-tetramethylpiperidine with sodium hydride followed by reaction with 0.5 molar equivalent of 1,4-dibromobutane.

reactant | 1-hydroxy-4-octadecanoyloxy-2,2,6,6-tetramethylpiperidine | ON1C(CC(CC1(C)C)OC(CCCCCCCCCCCCCCCCC)=O)(C)C | C27H53NO3
reactant | sodium hydride | [H-].[Na+]
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,4-Bis(4-octadecanoyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)butane | C(CCCCCCCCCCCCCCCCC)(=O)OC1CC(N(C(C1)(C)C)OCCCCON1C(CC(CC1(C)C)OC(CCCCCCCCCCCCCCCCC)=O)(C)C)(C)C | C58H112N2O6
